US06812229B1
0.70 g of methyl N-[2-chloro-5-(1-hydroxyiminoethyl)benzyl]carbamate was dissolved in 10 ml of N,N-dimethylformamide, and 0.13 g of 60% sodium hydride was added thereto under cooling with ice, followed by stirring for 1 hour. 0.57 g of 4-fluorobenzyl bromide was dissolved in 2 ml of N,N-dimethylformamide, which was dropwise added to the reaction mixture under cooling with ice. After completion of the dropwise addition, the mixture was stirred at room temperature for 16 hours. After completion of the reaction, the reaction solution was poured into water, extraction with ethyl acetate was carried out, followed by washing with water, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (Wakogel C-200, eluent: hexane/ethyl acetate=5/1) to obtain 0.75 g of methyl N-{2-chloro-5-[1-(4-fluorobenzyloxyimino)ethyl]benzyl}carbamate (m.p. 101-103° C.) as colorless crystals.

reactant | methyl N-[2-chloro-5-(1-hydroxyiminoethyl)benzyl]carbamate | 0.70 g | ClC1=C(CNC(OC)=O)C=C(C=C1)C(C)=NO | C11H13ClN2O3
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 0.57 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-{2-chloro-5-[1-(4-fluorobenzyloxyimino)ethyl]benzyl}carbamate | 0.75 g | ClC1=C(CNC(OC)=O)C=C(C=C1)C(C)=NOCC1=CC=C(C=C1)F | C18H18ClFN2O3
